US04307106
N-thenylthiourea (2.0 grams, 0.0116 moles) and α-bromoacetophenone (2.3 grams, 0.0116 moles, Aldrich Chem. Co.) in 15 ml absolute ethanol were heated to reflux temperature for 90 minutes under nitrogen. The reaction mixture was cooled and the ethanol removed under vacuum. On dissolving the residue in hot isopropyl alcohol and diluting with diethyl ether, an oil was formed. The diethyl ether was decanted, the oil dissolved in a small amount of ethanol and cooled. The resulting solids were filtered and dried over phosphorus pentoxide, yielding 3.20 grams (78%) of 2-thenylamino-4-phenyl-thiazole hydrobromide, m.p. 115°-118° C.

reactant | N-thenylthiourea | 0.0116 moles, 2.0 grams | C1(=CC=CS1)CNC(=S)N | C6H8N2S2
reactant | α-bromoacetophenone | 0.0116 moles, 2.3 grams | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-thenylamino-4-phenyl-thiazole hydrobromide | 3.20 grams, 78% | Br.C1(=CC=CS1)CNC=1SC=C(N1)C1=CC=CC=C1 | InChI=1S/C14H12N2S2.BrH/c1-2-5-11(6-3-1)13-10-18-14(16-13)15-9-12-7-4-8-17-12;/h1-8,10H,9H2,(H,15,16);1H
